US04238610
7-Chloro-5-(2-fluorophenyl)-alpha-hydroxyimino-3H-1,4-benzodiazepine-2-acetic acid ethyl ester
The crude 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-ylideneacetic acid ethyl ester obtained by reduction of 10 g. of the end produce of Example 15 as described above was dissolved in 40 ml. of glacial acetic acid. Sodium nitrite, 2.45 g., was added with stirring over a period of 5 minutes. Following the addition the mixture was stirred at room temperature for 15 minutes. The product started to crystallize and was further precipitated by addition of 50 ml. of water. The crystals were collected, washed with water, ethanol and ether to yield the end product. The analytical sample was recrystallized from tetrahydrofuran/ethanol to give pale yellow crystals with mp 230-°233°.

reactant | 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-ylideneacetic acid ethyl ester | C(C)OC(C=C1NC2=C(C(=NC1)C1=C(C=CC=C1)F)C=C(C=C2)Cl)=O | C19H16ClFN2O2
reactant | Sodium nitrite | N(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Chloro-5-(2-fluorophenyl)-alpha-hydroxyimino-3H-1,4-benzodiazepine-2-acetic acid ethyl ester | C(C)OC(C(C1=NC2=C(C(=NC1)C1=C(C=CC=C1)F)C=C(C=C2)Cl)=NO)=O | C19H15ClFN3O3
